US07094582B2
Isolation and Assay of Glucosamine-6-Phosphate Synthase from E. coli Cells
coli cells from frozen vials were inoculated into a flask culture containing 12 L fermentation seed medium. The medium contained the following chemicals (g/L): corn steep liquor, 10; KH2PO4, 2.5; MgSO4.7H2O, 2.0; (NH4)2SO4, 0.5; citric acid, 0.192; FeSO4.7H2O, 0.03; MnSO4.H2O, 0.021; antifoam 6000K, 0.5; dextrose, 84. The seed fermentor was operated at 39° C. at an agitation speed of 700 rpm and an airflow of 3.5 LPM. The pH of the fermentation was maintained at 6.9 with 21% NH4OH. After 24 hours of growth, the broth was centrifuged and the pellets were resuspended in extract buffer (100 mM Tris, pH 7.5; 100 mM NaCl). The cells were centrifuged and the pellets were resuspended in the extract buffer at a concentration of OD660 about 200. Sonication was applied to the cells four times for 30 seconds with intermissions of 1 minute. Centrifugation was used to separate the cell debris and the supernatant was maintained as enzyme extract. Ammonium sulfate was added to the extract to 226 g/L (40% saturation) and the extract was centrifuged. 120 g/L ammonium sulfate (60% saturation) was added to the supernatant. After centrifugation, the pellets were collected and resuspended in the extract buffer. Most of the glucosamine-6-phosphate activity was in this fraction.

reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NH4OH | [NH4+].[OH-]
reactant | Tris | 100 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | NaCl | 100 mM | [Na+].[Cl-]
catalyst | MnSO4.H2O | [O-]S(=O)(=O)[O-].[Mn+2].O
product | Glucosamine-6-Phosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@@H]([C@H](C(O)O1)N)O)O | C6H14NO8P
